US04477447
A solution of m-chloroperbenzoic acid (70% purity: 3.2 g) in methylene chloride (50 ml) was dropwise added to a stirred solution of 2-isopropoxy-1-isopropoxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-cephem-4-carboxylate (syn isomer, 7.5 g) in methylene chloride (75 ml) at 2° to 5° C. over 25 minutes, and stirred at 0° to 5° C. for 20 minutes. Dimethylsulfide (1 ml) was added to the resultant mixture. The resultant mixture was washed with an aqueous solution of sodium bicarbonate, and a saturated aqueous solution of sodium chloride in turn. After drying the solution over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was triturated with diethylether (100 ml), and then the precipitates were collected by filtration to give 2-isopropoxy-1-isopropoxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate-1-oxide (syn isomer, 6.77 g).

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-isopropoxy-1-isopropoxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-2-cephem-4-carboxylate | 7.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(C=CS2)C(=O)OC(COC(C)C)COC(C)C)C1=O)=NOC | C23H31N5O8S2
reactant | Dimethylsulfide | 1 ml | CSC | C2H6S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-isopropoxy-1-isopropoxymethylethyl 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate-1-oxide | 6.77 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2=O)C(=O)OC(COC(C)C)COC(C)C)C1=O)=NOC | C23H31N5O9S2
